US07244542B2
In a 500 mL three neck flask, equipped with a magnetic stirrer, an addition funnel, and a reflux condenser, were charged 25 g of HNAL (0.1462 mol) and 300 mL of ethyl acetate. 6-Hydroxy-2-naphthaldeyde was not completely soluble even after 3 h stirring at room temperature. To this was added 3.30 g of PPTS (0.0131 mol) and the solution mixture was heated to 70° C. At this temperature, 21 g of ethyl vinyl ether (0.2912 mol) was added dropwise and the reaction mixture became homogeneous upon addition of a few drops of ethyl vinyl ether. After completion of ethyl vinyl ether addition, the reaction temperature was lowered to room temperature and the reaction mixture was stirred overnight. The crude product was purified by column chromatography (silica gel, CH2Cl2) to yield 26 g of pure 6-(1-ethoxy ethoxy)-2-naphthaldehyde (yield: 73%).

reactant | 6-Hydroxy-2-naphthaldeyde | OC=1C=C2C=CC(=CC2=CC1)C=O | C11H8O2
reactant | PPTS | 0.0131 mol, 3.30 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | ethyl vinyl ether | 0.2912 mol, 21 g | C(=C)OCC | C4H8O
catalyst | ethyl vinyl ether | a few drops | C(=C)OCC | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 6-(1-ethoxy ethoxy)-2-naphthaldehyde | 26 g, yield: 73% | C(C)OC(C)OC=1C=C2C=CC(=CC2=CC1)C=O | C15H16O3
